US08012976B2
Ethyl 7-chloro-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate
To a solution of (E)-4-(benzylideneamino)-6-chloroisobenzofuran-1(3H)-one (720 mg, 2.66 mmol) and 1-methyl-1H-imidazole-2-carbaldehyde (330 mg, 3 mmol) in ethyl propionate (40 mL) was added sodium ethoxide (650 mg, 9.6 mmol). The mixture was stirred at room temperature for 3 hr. Then the resulting mixture was evaporated under reduced pressure and extracted with ethyl acetate (100 mL×4) and concentrated. The crude product was purified by column chromatography (silica gel, petroleum ether:ethyl acetate=20:1 to 1.5:1) to give the title compound as a solid (170 mg, yield 15%).

reactant | (E)-4-(benzylideneamino)-6-chloroisobenzofuran-1(3H)-one | 2.66 mmol, 720 mg | C(/C1=CC=CC=C1)=N\C1=C2COC(C2=CC(=C1)Cl)=O | C15H10ClNO2
reactant | 1-methyl-1H-imidazole-2-carbaldehyde | 3 mmol, 330 mg | CN1C(=NC=C1)C=O | C5H6N2O
reactant | sodium ethoxide | 9.6 mmol, 650 mg | [O-]CC.[Na+]
solvent | ethyl propionate | 40 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 7-chloro-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 170 mg, yield 15% | ClC=1C=C(C=2C(C(C(NC2C1)C1=CC=CC=C1)C=1N(C=CN1)C)=O)C(=O)OCC | C22H20ClN3O3
